US06232320B1
Dimethylethyl 4-formylthieno[2,3-c]pyridine-2-carboxylate
To a stirred solution of oxalyl chloride (0.10 mL, 1.17 mmol) in anhydrous dichloromethane (10 mL) at −78° C. was added DMSO (0.19 mL, 2.65 mmol). After 20 minutes, a solution of dimethylethyl 4-(hydroxymethyl)thieno[2,3-c]pyridine-2-carboxylate (0.28 g, 1.06 mmol) in anhydrous dichloromethane (4 mL) was added dropwise. The reaction was stirred 1 hours at −78° C. then treated with triethylamine (0.74 mL, 5.30 mmol). After 5 minutes, reaction was allowed to warm to room temperature over 30 minutes. The reaction was quenched with water (5 mL) and partitioned between dichoromethane (50 mL) and 50% sat. aq NaHCO3 (50 mL). The organic phase was washed with 50% sat. aq NaHCO3 (1×50 mL), dried (Na2SO4), filtered, and concentrated and dried in a desiccator to yield the title as a solid (0.25 g, 90%).

reactant | oxalyl chloride | 1.17 mmol, 0.10 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 2.65 mmol, 0.19 mL | CS(=O)C | C2H6OS
reactant | dimethylethyl 4-(hydroxymethyl)thieno[2,3-c]pyridine-2-carboxylate | 1.06 mmol, 0.28 g | OCC1=C2C(=CN=C1)SC(=C2)C(=O)OC(C)(C)C | C13H15NO3S
reactant | triethylamine | 5.30 mmol, 0.74 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | Dimethylethyl 4-formylthieno[2,3-c]pyridine-2-carboxylate | 0.25 g, 90% | C(=O)C1=C2C(=CN=C1)SC(=C2)C(=O)OC(C)(C)C | C13H13NO3S
